US08604032B2
To a suspension of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbaldehyde (E-3) (1.17 g, 6.47 mmol, 1.0 eq) and hydroxylamine hydrochloride (0.54 g, 7.77 mmol, 1.2 eq) in EtOH (25 mL), aqueous NaOH solution (0.31 g, 7.77 mmol, 1.2 eq) in H2O (4 mL) is added dropwise. The resulting mixture is stirred at RT for 30 min and then is diluted with a sufficient amount of EtOH to allow stirring for additional 30 min. The solid is collected by filtration, rinsed with H2O and dried in vacuo to afford the product, 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbaldehyde oxime (E-4) as a mixture of isomers.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbaldehyde | 6.47 mmol, 1.17 g, 1.0 eq | ClC=1C2=C(N=CN1)NC=C2C=O | C7H4ClN3O
reactant | hydroxylamine hydrochloride | 7.77 mmol, 0.54 g, 1.2 eq | Cl.NO
reactant | NaOH | 7.77 mmol, 0.31 g, 1.2 eq | [OH-].[Na+]
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | H2O | 4 mL | O | H2O
product | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbaldehyde oxime | ClC=1C2=C(N=CN1)NC=C2C=NO | C7H5ClN4O
